US05767285
4-[4-(Hydroxymethyl)2-nitrophenoxy]butanoic acid, ethyl ester (300 mg, 1.06 mmol) is treated with 799 mg (3.71 mmol) of pyridinium chlorochromate by the procedure described in Example 5 to give 188 mg (63%) of 4-(4-formyl-2-nitrophenoxy)butanoic acid, ethyl ester as a colorless oil. The 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (neat) 1730, 1700, 1610, 1570 cm-1 ; MS (CI) m/e 282 (M+H).

reactant | 4-[4-(Hydroxymethyl)2-nitrophenoxy]butanoic acid, ethyl ester | 1.06 mmol, 300 mg | OCC1=CC(=C(OCCCC(=O)OCC)C=C1)[N+](=O)[O-] | C13H17NO6
reactant | pyridinium chlorochromate | 3.71 mmol, 799 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 4-(4-formyl-2-nitrophenoxy)butanoic acid, ethyl ester | 188 mg, 63% | C(=O)C1=CC(=C(OCCCC(=O)OCC)C=C1)[N+](=O)[O-] | C13H15NO6
